US08097628B2
(g) (1S)-1-(Hydroxymethyl)-1,2,5,6-tetrahydro-4H,9H-imidazo[1,2,3-ij]-1,8-naphthyridine-4,9-dione
A solution of 7-(methyloxy)-1-[(2R)-2-oxiranylmethyl]-3,4-dihydro-1,8-naphthyridin-2(1H)-one (1.167 g, 4.98 mmol) in DMF (20 ml) under argon was heated to 120° C. for 6 h. Reaction was then evaporated and chromatographed (0-20% MeOH/DCM) to give product as an orange solid (339 mg, 31%).

reactant | 7-(methyloxy)-1-[(2R)-2-oxiranylmethyl]-3,4-dihydro-1,8-naphthyridin-2(1H)-one | 4.98 mmol, 1.167 g | COC1=CC=C2CCC(N(C2=N1)C[C@H]1OC1)=O | C12H14N2O3
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | (1S)-1-(Hydroxymethyl)-1,2,5,6-tetrahydro-4H,9H-imidazo[1,2,3-ij]-1,8-naphthyridine-4,9-dione | 339 mg, 31% | OC[C@@H]1CN2C(CCC=3C=CC(N1C23)=O)=O | C11H12N2O3
